US07001900B2
A solution of 5-methoxy-2-naphthonitrile (455 mg, 2.5 mmol) and KOH (460 mg, 8.2 mmol) in 95% ethanol (5 mL) is heated to reflux for 24 hours. The reaction mixture is allowed to cool, diluted with water then acidified to pH<2 with concentrated HCl. The resulting precipitate is collected by filtration, washed with water and dried by heating at 70° C. under vacuum to give 5-methoxy-2-naphthoic acid as a white solid (471 mg, 94%). HRMS (EI) calculated for C12H10O3: 202.0630, found 202.0627.

reactant | 5-methoxy-2-naphthonitrile | 2.5 mmol, 455 mg | COC1=C2C=CC(=CC2=CC=C1)C#N | C12H9NO
reactant | KOH | 8.2 mmol, 460 mg | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-methoxy-2-naphthoic acid | 471 mg, 94% | COC1=C2C=CC(=CC2=CC=C1)C(=O)O | C12H10O3
